US04182776
6-(Phenoxy)-1-hexanol O-methanesulfonate
To a chilled (-2° C.) mixture of 9.7 g of 6-(phenoxy)-1-hexanol in 250 ml of dichloromethane containing 11.1 g of triethylamine is added 6.95 g of methanesulfonyl chloride. The product is isolated as described in Example 2 to give the product as an oil.

reactant | 6-(phenoxy)-1-hexanol | 9.7 g | O(C1=CC=CC=C1)CCCCCCO | C12H18O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.95 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 250 ml, 11.1 g | ClCCl | CH2Cl2
product | 6-(Phenoxy)-1-hexanol O-methanesulfonate | CS(=O)(=O)OCCCCCCOC1=CC=CC=C1 | C13H20O4S
